US05726306
In substantially the same manner as in Example 8 (1), 8 g of 2-amino-4'-methoxybenzophenone was allowed to react with 5-oxotetrahydrofuran-2-carbonyl chloride to give 12 g of 4'-methoxy-2-(5-oxotetrahydrofuran-2-carbonyl)aminobenzophenone as an oily product.

reactant | 2-amino-4'-methoxybenzophenone | 8 g | NC1=C(C(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C14H13NO2
reactant | 5-oxotetrahydrofuran-2-carbonyl chloride | O=C1CCC(O1)C(=O)Cl | C5H5ClO3
product | 4'-methoxy-2-(5-oxotetrahydrofuran-2-carbonyl)aminobenzophenone | 12 g | COC1=CC=C(C=C1)C(C1=C(C=CC=C1)NC(=O)C1OC(CC1)=O)=O | C19H17NO5
